US06858651B2
A solution of 1.57 g (4.82 mmol) 4-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-but-2-enoic acid ethyl ester and 200 mg of Pd/C (10%) in 20 ml of MeOH was stirred at RT under H2-atmosphere for 3 h. After filtration, the solution was concentrated under reduced pressure to dryness, to give 1.58 g of clean trans-4-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-butyric acid ethyl ester. 1.58 g (4.82 mmol) trans-4-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-butyric acid ethyl ester in 20 ml of THF, was treated at RT with 390 mg of LiAlH4. After stirring the solution for 30 min at RT, the excess of LiAH4 was destroyed by adding dropwise 10 ml of saturated brine under ice-cooling. The reaction mixture was partitioned between Et2O/1M HCl and H2O. The ether-solution was concentrated in vacuo, to give 1.37 g (99%) of pure trans-[4-(4-Hydroxy-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester.

reactant | 4-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-but-2-enoic acid ethyl ester | 4.82 mmol, 1.57 g | C(C)OC(C=CCC1CCC(CC1)N(C)C(=O)OC(C)(C)C)=O | C18H31NO4
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | trans-4-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-butyric acid ethyl ester | 1.58 g | C(C)OC(CCC[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C)=O | C18H33NO4
